US06617326B2
c) 5′-Bromo-5,2′-difluorobiphenyl-2-carbonitrile
5′-Amino-5,2′-difluorobiphenyl-2-carbonitrile (2.87 g, 12.5 mmol) was dissolved in hot 1,4-dioxane (4 ml), 48% aqueous hydrobromic acid (40 ml) was added and the mixture cooled to 0° C. before dropwise addition of sodium nitrite (0.86 g, 12.5 mmol) in water (1.5 ml) over 20 min. The resulting mixture was stirred at 0° C. for 1.5 h then poured onto a cooled (0° C.) solution of copper(I) bromide (5.38 g, 37.5 mmol) in 48% hydrobromic acid (10 ml). The solution was stirred at 0° C. for 15 min then heated at 50° C. for 20 min. The mixture was cooled to ambient temperature, diluted with water (500 ml) and extracted with ethyl acetate (2×300 ml). The combined organics were washed with 10% aqueous ammonia solution (200 ml), water (200 ml) and brine (200 ml), dried over anhydrous magnesium sulfate, filtered and evaporated to give a black solid. Purification by chromatography [silica gel, 2-6% EtOAc/isohexane (containing 0.5% methanol)] gave the title compound as a pale brown solid: 1H NMR (400 MHz, CDCl3) δ 7.13 (1H, dd, J 9, 9 Hz), 7.19-7.23 (2H, m), 7.52-7.60 (2H, m), 7.81 (1H, dd, J 8, 5 Hz).

reactant | 5′-Amino-5,2′-difluorobiphenyl-2-carbonitrile | 12.5 mmol, 2.87 g | NC=1C=CC(=C(C1)C=1C(=CC=C(C1)F)C#N)F | C13H8F2N2
reactant | sodium nitrite | 12.5 mmol, 0.86 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | hydrobromic acid | 40 ml | Br | BrH
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
solvent | water | 500 ml | O | H2O
catalyst | copper(I) bromide | 37.5 mmol, 5.38 g | [Cu]Br
product | 5′-Bromo-5,2′-difluorobiphenyl-2-carbonitrile | BrC=1C=CC(=C(C1)C=1C(=CC=C(C1)F)C#N)F | C13H6BrF2N
